US07759518B2
Step E: 1-allyl-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)cyclopropane-1-sulfonamide
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine was reacted with 1-allylcyclopropane-1-sulfonyl chloride to obtain the desired product. m/z=507 [M−1]−.

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | 1-allylcyclopropane-1-sulfonyl chloride | C(C=C)C1(CC1)S(=O)(=O)Cl | C6H9ClO2S
product | 1-allyl-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)cyclopropane-1-sulfonamide | C(C=C)C1(CC1)S(=O)(=O)NC1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F | C18H16F3IN2O2S
